US03962281
1.182 g of methyl methylthiomethyl sulfoxide was dissolved in 5 ml. of tetrahydrofuran, and under cooling with ice 229 mg (1.0 equivalent) of sodium hydride was added. The mixture was stirred for one hour. 1.91 g of p-bromobenzyl bromide (0.8 equivalent) was added, and the mixture was further stirred for 13 hours at room temperature. 50 ml. of methylene chloride was added, and the resulting precipitate was filtered. The filtrate was concentrated at reduced pressure, and subjected to column chromatography (silica gel, methylene chloride) to give 698 mg of methyl 2-(p-bromophenyl)-1-methylthioethyl sulfoxide in a yield of 36.5%.

reactant | methyl methylthiomethyl sulfoxide | 1.182 g | CSCS(=O)C | C3H8OS2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | p-bromobenzyl bromide | 1.91 g, 0.8 equivalent | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-(p-bromophenyl)-1-methylthioethyl sulfoxide | 698 mg, yield of 36.5% | BrC1=CC=C(C=C1)CC(SC)S(=O)C | C10H13BrOS2
